Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right flank pain
 
Major Surgical or Invasive Procedure:
___: right ureteroscopy, laser lithotripsy, ureteral stent 
placement; removal of urethral polyp

 
History of Present Illness:
Mr. ___ is a ___ y/o gentleman well known to our service with a 
prior history of stone disease, s/p left URS/LL in ___ in 
___. In ___ he presented to the ___ ED with right flank 
pain and was found to have an 8 mm obstructing right 
mid-ureteral stone with mild hydronephrosis. He had a strong 
desire to avoid operative intervention due to a prior history of 
severe discomfort with ureteral stents. He did well with a trial 
of medical therapy and was discharged home; on subsequent 
outpatient follow up with Dr. ___ pain had resolved and a 
renal ultrasound showed resolution of his hydronephrosis.

He now returns with acute onset of severe right flank pain at 
1100 this morning, this time with some radiation to the 
ipsilateral groin. He has had nausea and repeated vomiting but 
no fevers, rigors, or other symptoms of infection. In the ED he 
was AFHDS with normal renal function (Cr 1.1) and mild 
leukocytosis to 15.1. UA was negative aside from the expected 
RBCs. CT scan showed the same stone, now migrated somewhat 
distally, with recurrent hydronephrosis. On evaluation the 
patient was significantly more comfortable after a dose of IV 
morphine.

Given the low likelihood of stone passage and the recurrence of 
pain after ~2 months conservative management, the decision was 
made to admit the patient for semi-elective ureteroscopy and 
laser lithotripsy.
 
Past Medical History:
- nephrolithiasis (one prior episode), s/p left URS/LL in ___, 
___

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
- AAOx4, WDWN young adult male resting in bed, NAD
- skin WWP
- breathing unlabored on RA
- abd soft, ND, minimal TTP of RLQ and right lateral abdomen; no 
CVAT bilaterally
- moving all extremities spontaneously, no edema

 
Pertinent Results:
___ 04:44PM BLOOD WBC-15.1* RBC-6.35* Hgb-11.4* Hct-38.6* 
MCV-61* MCH-18.0* MCHC-29.5* RDW-17.4* RDWSD-32.9* Plt ___
___ 04:00AM BLOOD WBC-11.9* RBC-5.92 Hgb-10.9* Hct-35.3* 
MCV-60* MCH-18.4* MCHC-30.9* RDW-15.9* RDWSD-31.8* Plt ___

___ 04:44PM BLOOD Glucose-113* UreaN-15 Creat-1.1 Na-136 
K-4.1 Cl-98 HCO3-23 AnGap-19
___ 04:00AM BLOOD Glucose-106* UreaN-13 Creat-1.2 Na-136 
K-3.7 Cl-98 HCO3-24 AnGap-18

___ 07:03PM URINE Color-Straw Appear-Clear Sp ___
___ 07:03PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 07:03PM URINE RBC-3* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1

___ 7:03 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH.

CT A/P ___:
EXAMINATION:  CTU without contrast
 
INDICATION:  ___ year old man with right flank pain, history of 
of kidney stone on right side  // Kidney stone?
 
TECHNIQUE:  Multidetector CT images of the abdomen and pelvis 
were acquired without intravenous contrast with patient in prone 
position. Non-contrast scan has several limitations in detecting 
vascular and parenchymal organ abnormalities, including tumor 
detection.
Oral contrast was not administered. Coronal and sagittal 
reformations were performed and reviewed on PACS.
 
DOSE:  Total DLP (Body) = 767 mGy-cm.
 
COMPARISON:  CT abdomen and pelvis on ___
 
FINDINGS: 
 
LOWER CHEST: Visualized lung fields are within normal limits.  
There is no evidence of pleural or pericardial effusion.
 
ABDOMEN:
 
HEPATOBILIARY: The liver demonstrates homogeneous attenuation 
throughout.  There is no evidence of focal lesions within the 
limitations of an unenhanced scan.  There is no evidence of 
intrahepatic or extrahepatic biliary dilatation.  The 
gallbladder is within normal limits.
 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions within the limitations of an 
unenhanced scan.  There is no pancreatic ductal dilatation.  
There is no peripancreatic stranding.
 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without evidence of focal lesions.
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
 
URINARY: The right kidney is enlarged and edematous compared to 
the left with asymmetric perinephric and periureteral stranding. 
 There is a 7 mm stone in the distal right ureter with upstream 
moderate hydroureteronephrosis (3:64, 5b:33).  Left kidney 
appears normal.  No additional renal calculi are seen.  There is 
no evidence of focal renal lesions within the limitations of an
unenhanced scan.
 
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber and wall thickness throughout.  
The colon and rectum are within normal limits.  The appendix is 
normal (5b:30).
 
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis.
 
REPRODUCTIVE ORGANS: The prostate and seminal vesicles are 
normal.
 
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy.
 
VASCULAR: There is no abdominal aortic aneurysm.  No 
atherosclerotic disease is noted.
 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.
 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits.
 
IMPRESSION: 
 
7 mm obstructing stone in the distal right ureter with moderate 
right
hydroureteronephrosis.

 
Brief Hospital Course:
Mr. ___ was admitted the evening of ___ for observation 
and pain control with a plan for semi-elective intervention on 
___. Unfortunately his case was unable to be performed due to 
OR scheduling issues and winter weather and the decision was 
made to postpone his procedure until ___, when he underwent 
ureteroscopy and laser lithotripsy of the object 7-8 mm 
mid-ureteral stone. Incidental note was made of a urethral polyp 
which was removed and sent for pathology. He was discharged home 
the afternoon of his procedure in good condition, with 
instructions to follow up in 10 days for stent removal. He was 
afebrile and hemodynamically stable with good pain control 
throughout his hosptial stay.
 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate Duration: 3 Days 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
5.  Phenazopyridine 100 mg PO TID:PRN burning with urination 
Duration: 3 Days 
RX *phenazopyridine 100 mg 1 tablet(s) by mouth three times a 
day Disp #*10 Tablet Refills:*0 
6.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*14 
Capsule Refills:*0 
7.  trospium 60 mg oral DAILY:PRN bladder spasms, stent pain 
Duration: 14 Days 
Discontinue if you have difficulty urinating 
RX *trospium 60 mg 1 capsule(s) by mouth daily Disp #*15 Capsule 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right ureteral stone

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
We saw a small polyp in your urethra during the surgery and 
removed it; the pathology results to identify it will be back in 
___ days.

-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the passage of stone fragments or 
the indwelling ureteral stent.

-There may be stone fragments still in the process of passing.

-You may experience some pain associated with spasm of your 
ureter.; This is normal. Take the narcotic pain medication 
and/or tamsulosin as prescribed if additional pain relief is 
needed.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-Do not lift anything heavier than a phone book (10 pounds) 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and available over the counter. 
The generic name is DOCUSATE SODIUM. It is recommended that you 
use this medication.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated
 
Followup Instructions:
___